US06107291
To a solution of 3-Hydroxymethyl-1-(4-methoxy-benzenesulfonyl)-azepane-2-carboxylic acid tert-butyl ester (110 mg, 0.275 mmoL) in 3.9 mL cyclohexane and 1.95 mL of dichloromethane was added benzyl trichloracetimidate (0.1 mL, 0.55 mmoL). The solution was cooled to 0° C. and trifluoromethane sulfonic acid (0.008 mL, 0.091 mmoL) was added in. After 2.5 hours the reaction was filtered and the cake was washed with a 2:1 solution of cyclohexane and dichloromethane, the solvent was evaporated under reduced pressure and the residue was taken up in ethyl acetate. The solution was washed sequentially with dilute sodium bicarbonate and brine. The organic layer was dried over anhyrous magnesium sulfate, filtered, and the solvent evaporated under reduced pressure. The residue was purified by column chromatography (silica: 30% ethyl acetate in hexanes to 5% methanol in dichloromethane) to yield 3-Benzyloxymethyl-1-(4-methoxy-benzenesulfonyl)-azepane-2-carboxylic acid; MS: (M+H)+ =434, (M-H)- =432.

reactant | 3-Hydroxymethyl-1-(4-methoxy-benzenesulfonyl)-azepane-2-carboxylic acid tert-butyl ester | 110 mg | C(C)(C)(C)OC(=O)C1N(CCCCC1CO)S(=O)(=O)C1=CC=C(C=C1)OC | C19H29NO6S
reactant | benzyl trichloracetimidate | 0.1 mL | ClC(C(OCC1=CC=CC=C1)=N)(Cl)Cl | C9H8Cl3NO
reactant | trifluoromethane sulfonic acid | 0.008 mL | FC(S(=O)(=O)O)(F)F | CHF3O3S
solvent | cyclohexane | 3.9 mL | C1CCCCC1 | C6H12
solvent | dichloromethane | 1.95 mL | ClCCl | CH2Cl2
product | 3-Benzyloxymethyl-1-(4-methoxy-benzenesulfonyl)-azepane-2-carboxylic acid | C(C1=CC=CC=C1)OCC1C(N(CCCC1)S(=O)(=O)C1=CC=C(C=C1)OC)C(=O)O | C22H27NO6S
